US04565769
(B) Preparation of 1-[4-(dimethylamino)phenyl]-1-(4-hydroxyphenyl)-methanone
A solution of 10.0 g 1-[4-(dimethylamino)phenyl]-1-(4-methoxyphenyl)-methanone in 30 ml 48% hydrobromic acid was heated at reflux for 21 hours. The reaction mixture was poured into aqueous sodium bicarbonate and the precipitate filtered. Recrystallization from 150 ml of methanol gave 7.3 g of white solid, m.p. 199°-200° C.

reactant | 1-[4-(dimethylamino)phenyl]-1-(4-methoxyphenyl)-methanone | 10.0 g | CN(C1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OC)C | C16H17NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrobromic acid | 30 ml | Br | BrH
product | 1-[4-(dimethylamino)phenyl]-1-(4-hydroxyphenyl)-methanone | 7.3 g | CN(C1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)O)C | C15H15NO2
